US06939885B2
Synthesis of N-[4-Bromo-2-(pyridine-4-carbonyl)-phenyl]-4-ethyl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 138 mg of (2-Amino-5-bromo-phenyl)-pyridin-4-yl-methanone and 102 mg of 4-ethyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.19 (t, 3H, J=7.6 Hz), 2.62 (q, 2H, J=7.6 Hz), 7.20 (d, 2H, J=8.8 Hz, 7.38 (m, 3H), 7.65-7.72 (m, 4H), 8.81 (d, 2H, 6.4 Hz), 10.06 (s, 1H). MS: m/z 446.0 (M++1).

reactant | (2-Amino-5-bromo-phenyl)-pyridin-4-yl-methanone | 138 mg | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=NC=C1 | C12H9BrN2O
reactant | 4-ethyl-benzenesulfonyl chloride | 102 mg | C(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H9ClO2S
product | N-[4-Bromo-2-(pyridine-4-carbonyl)-phenyl]-4-ethyl-benzenesulfonamide | BrC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)CC)C(=O)C1=CC=NC=C1 | C20H17BrN2O3S
